US05569768
2-(3,4-Diaminophenyl)benzonitrile
4-(2-Cyanophenyl)-2-nitroaniline (0.042 moles,10 g.) was dissolved in 200 ml ethanol and hydrogenated at 40 psi over 10 g of 10% Pd/C. The solution was filtered, concentrated, and purified by HPLC eluted with a gradient of 0-50% ethyl acetate in toluene. (MS)

reactant | 4-(2-Cyanophenyl)-2-nitroaniline | 0.042 moles, 10 g | C(#N)C1=C(C=CC=C1)C1=CC(=C(N)C=C1)[N+](=O)[O-] | C13H9N3O2
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | Pd/C | 10 g | [Pd] | Pd
product | 2-(3,4-Diaminophenyl)benzonitrile | NC=1C=C(C=CC1N)C1=C(C#N)C=CC=C1 | C13H11N3
